US04255423
Preparation of 3-(2-pyrazinylvinyl)-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid
To a solution of 147 mg of benzhydryl 3-(2-pyrazinylvinyl)-7β-(2-thienylacetamido)-3-cephem-4-carboxylate in 1.5 ml anisole at 0° was added 3 ml of cold trifluoroacetic acid. The solution was kept 10 minutes at 0° and then placed directly on a vacuum pump and evaporated. The residue was flushed with 1 ml anisole and reevaporated. The residue was triturated with 4 ml boiling ether and the ether was cooled and siphoned off. This procedure was repeated twice more. The remaining insoluble material weighed 116 mg yield 87% (calculated as mono--CF3COOH salt) and was characterized by n.m.r. and electrophoresis.

reactant | benzhydryl 3-(2-pyrazinylvinyl)-7β-(2-thienylacetamido)-3-cephem-4-carboxylate | 147 mg | N1=C(C=NC=C1)C=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C32H26N4O4S2
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 1.5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 3-(2-pyrazinylvinyl)-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid | yield 87% | N1=C(C=NC=C1)C=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | C19H16N4O4S2
